US09388189B2
(S)-2-(1-((6-Amino-5-(3,4-difluoro-5-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-(3,4-difluoro-5-methoxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (87 mg, 0.17 mmol) was dissolved in 3 mL dichloromethane. A solution of boron tribromide (1M, 520 μl, 0.52 mmol) was added dropwise and the reaction was stirred at room temperature overnight. Further tribromide (1M in dichloromethane, 260 μl, 0.26 mmol) was added dropwise and stirred for 2 h more. The mixture was diluted with ethyl acetate and washed with a solution of 4% sodium bicarbonate, water, brine and dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified by reverse phase using SP1® Purification System to give 25 mg (44% yield) of the title compound as a solid. Purity 99%.

reactant | (S)-2-(1-((6-Amino-5-(3,4-difluoro-5-methoxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.17 mmol, 87 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC(=C(C(=C2)OC)F)F | C26H23F2N7O2
reactant | boron tribromide | 0.52 mmol, 1M, 520 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(1-((6-Amino-5-(3,4-difluoro-5-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 25 mg, 44% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC(=C(C(=C2)O)F)F | C25H21F2N7O2
